US08067445B2
Step 1: [6-Methoxy-2′-(phenethylamino-methyl)-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid methyl ester
To a solution of (2′-formyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester (0.277 g, 0.79 mmol) and 2-phenylethylamine (0.15 mL, 1.18 mmol) in CH2Cl2 (4 mL) was added sodium triacetoxyborohydride (0.251 g, 1.18 mmol), and the reaction was stirred at room temperature for 2 hours. Analytical LCMS indicated that some starting material was still present, so additional 2-phenylethylamine (0.15 mL, 1.18 mmol) was added, along with acetic acid (1 drop), and the reaction was stirred overnight at room temperature. Analytical LCMS showed that starting material still remained, so additional sodium triacetoxyborohydride (0.260 g, 1.23 mmol) was added, and the reaction was stirred for 2.5 hours. Additional sodium triacetoxyborohydride (0.500 g, 2.36 mmol) was added, and the reaction was stirred for 1.5 hours, until no starting material was seen by analytical LCMS. The mixture was worked-up, and the residue was purified by silica gel chromatography (0-100% EtOAc in hexanes) to give the title compound.

reactant | (2′-formyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester | 0.79 mmol, 0.277 g | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)C=O)=O | C18H15F3O4
reactant | 2-phenylethylamine | 1.18 mmol, 0.15 mL | C1(=CC=CC=C1)CCN | C8H11N
reactant | sodium triacetoxyborohydride | 1.18 mmol, 0.251 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 2-phenylethylamine | 1.18 mmol, 0.15 mL | C1(=CC=CC=C1)CCN | C8H11N
reactant | sodium triacetoxyborohydride | 1.23 mmol, 0.260 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium triacetoxyborohydride | 2.36 mmol, 0.500 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
catalyst | acetic acid | 1 drop | C(C)(=O)O | C2H4O2
product | [6-Methoxy-2′-(phenethylamino-methyl)-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CNCCC1=CC=CC=C1)=O | C26H26F3NO3
